US04033961
11-oxo-11H-pyrido[2,1-b]quinazoline8-carboxylic acid
A reaction mixture containing 4.35g (31.8 mmol) of anthranilic acid, 5.00g (31.8 mmol) of 6-chloronicotinic acid, 3ml of conc. HCl and 80ml of ethanol was heated at reflux for 21 hours. The mixture was cooled and filtered to give 3.40g (38.9%) of the expected product, mp. 323° -325° dec. The analytical sample was obtained by recrystallization from methanol-ether, mp. 323° -325° dec.

reactant | anthranilic acid | 31.8 mmol, 4.35g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 6-chloronicotinic acid | 31.8 mmol, 5.00g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | HCl | 3ml | Cl | ClH
solvent | ethanol | 80ml | C(C)O | C2H6O
product | 11-oxo-11H-pyrido[2,1-b]quinazoline8-carboxylic acid | 3.40g, 38.9% | O=C1N2C(=NC3=CC=CC=C13)C=CC(=C2)C(=O)O | C13H8N2O3
